US05650428
(S)-2-(4-chlorobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)hexanamide (2.717 g) was dissolved in methanol (50 ml), 2N NaOH (8.72 ml) was added and the whole was stirred at room temperature overnight under argon. The reaction mixture was concentrated under reduced pressure to remove methanol. The concentrate was poured in 6N HCl while cooling with ice. The precipitated crystals were filtered and recrystallized from acetonitrile to obtain (S)-N-(4-(2-carboxyethyl)phenyl)-2-(4-chlorobenzenesulfonylamino)hexanamide (1.629 g).

reactant | (S)-2-(4-chlorobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)hexanamide | 2.717 g | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)NC1=CC=C(C=C1)CC(=O)OCC)CCCC | C22H27ClN2O5S
reactant | NaOH | 2N, 8.72 ml | [OH-].[Na+]
reactant | methanol | 50 ml | CO | CH4O
product | (S)-N-(4-(2-carboxyethyl)phenyl)-2-(4-chlorobenzenesulfonylamino)hexanamide | 1.629 g | C(=O)(O)CCC1=CC=C(C=C1)NC([C@H](CCCC)NS(=O)(=O)C1=CC=C(C=C1)Cl)=O | C21H25ClN2O5S
